US06562828B1
3-[4-[4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidin-1-yl]pyridin-3-yl]-2-propenoic Acid Ethyl Ester Dihydrochloride
To a solution of 3-[4-[4-(1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidin-1-yl]pyridin-3-yl]-2-propenoic acid ethyl ester (70 mg) in dimethylformamide (1 ml) were added diisopropylethylamine (0.032 ml) and 1H-pyrazole-1-carboxamidine hydrochloride (27 mg), and the mixture was stirred at room temperature for 12 hours. The solvent was evaporated and to the obtained residue was added diethyl ether and the supernatant was removed. This procedure was repeated twice and hydrogen chloride-ethanol solution was added to the obtained residue and insoluble material was removed. The solution was concentrated and dried under reduced pressure to give the title compound (50 mg).

reactant | 3-[4-[4-(1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidin-1-yl]pyridin-3-yl]-2-propenoic acid ethyl ester | 70 mg | C(C)OC(C=CC=1C=NC=CC1N1CCC(CC1)COC1=CC=C2CCNCC2=C1)=O | C25H31N3O3
reactant | diisopropylethylamine | 0.032 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 27 mg | Cl.N1(N=CC=C1)C(=N)N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-[4-[4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidin-1-yl]pyridin-3-yl]-2-propenoic Acid Ethyl Ester Dihydrochloride | 50 mg | Cl.Cl.C(C)OC(C=CC=1C=NC=CC1N1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(N)=N)=O | InChI=1S/C26H33N5O3.2ClH/c1-2-33-25(32)6-4-21-16-29-11-7-24(21)30-12-8-19(9-13-30)18-34-23-5-3-20-10-14-31(26(27)28)17-22(20)15-23;;/h3-7,11,15-16,19H,2,8-10,12-14,17-18H2,1H3,(H3,27,28);2*1H
